US07531532B2
Pyrrolidine-1-carboxylic acid [4-(2-methyl-4-nitrophenoxy)pyridin-2-yl]amide
To a solution of 4-(2-methyl-4-nitrophenoxy)pyridin-2-ylamine (1.00 g) in tetrahydrofuran (50 ml) was added triethylamine (1.14 ml), and then phenyl chloroformate (0.768 ml) was added dropwise thereto while stirring in an ice bath, followed by stirring for 1.5 hrs. Phenyl chloroformate (0.252 ml) was further added thereto while stirring in an ice bath, followed by stirring for 0.5 hr. The reaction mixture was concentrated under a reduced pressure to give a residue, to which N,N-dimethylformamide (20 ml) and pyrrolidine (1.36 ml) were added, followed by stirring at room temperature for 0.5 hr. The reaction mixture was partitioned between ethyl acetate (150 ml) and water (100 ml). The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was purified by silica gel column chromatography (Fuji Silysia NH, eluent; hexane:ethyl acetate=2:1 to 1:1, then ethyl acetate) to provide the titled compound (988 mg, 70.7%) as a pale yellow solid.

reactant | 4-(2-methyl-4-nitrophenoxy)pyridin-2-ylamine | 1.00 g | CC1=C(OC2=CC(=NC=C2)N)C=CC(=C1)[N+](=O)[O-] | C12H11N3O3
reactant | triethylamine | 1.14 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.768 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | Phenyl chloroformate | 0.252 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyrrolidine | 1.36 ml | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Pyrrolidine-1-carboxylic acid [4-(2-methyl-4-nitrophenoxy)pyridin-2-yl]amide | 988 mg, 70.7% | CC1=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=CC(=C1)[N+](=O)[O-] | C17H18N4O4
